US05037827
(1) Synthesis of 5-pentyloxy-1-pentanol
Sodium hydride (60%, 4.2 g) and then 12 ml of 1-bromopentane were added to a solution of 10 g of 1,5-pentanediol in 150 ml of N,N-dimethylformamide. The mixture was stirred at room temperature for 30 min. 3% hydrochloric acid was added to the reaction solution. After extraction with ether, the organic layer was dried and cencentrated. The residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=8/2) to obtain 6 g of the intended product.

reactant | Sodium hydride | 4.2 g | [H-].[Na+]
reactant | 1-bromopentane | 12 ml | BrCCCCC | C5H11Br
reactant | 1,5-pentanediol | 10 g | C(CCCCO)O | C5H12O2
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-pentyloxy-1-pentanol | 6 g | C(CCCC)OCCCCCO | C10H22O2
